US08293768B2
Synthesis of 1-(5-(4-benzyl-4,5-dihydro-1H-imidazol-2-yl)-4-methylthiophen-2-yl)-3-(4-fluorobenzyl)imidazolidin-2-one
To a stirred solution of (S)-3-phenylpropane-1,2-diamine (0.37 g, 2.48 mmol) in toluene (20 mL) at 0° C. under nitrogen atmosphere was added dropwise trimethylaluminum (1.24 mL of 2.0 M solution in toluene, 2.48 mmol). When the fuming ceased, ethyl 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylate (0.60 g, 1.66 mmol) in toluene (5 mL) was added slowly. The resulting mixture was stirred at reflux for 18 h, cooled to ambient temperature and partitioned between ethyl acetate (75 mL) and water (50 mL). The aqueous layer was extracted with ethyl acetate (3×75 mL), and the combined organic layer was dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography eluted with dichloromethane/methanol/triethyl amine (9/1/0.1) to afford the title compound as brown viscous oil in 29% yield (0.06 g): MS (ES+) m/z 449.2 (M+1).

reactant | (S)-3-phenylpropane-1,2-diamine | 2.48 mmol, 0.37 g | C1(=CC=CC=C1)C[C@@H](CN)N | C9H14N2
reactant | trimethylaluminum | 2.48 mmol, 2.0 M, 1.24 mL | C[Al](C)C
reactant | ethyl 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylate | 1.66 mmol, 0.60 g | FC1=CC=C(CN2C(N(CC2)C2=CC(=C(S2)C(=O)OCC)C)=O)C=C1 | C18H19FN2O3S
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(5-(4-benzyl-4,5-dihydro-1H-imidazol-2-yl)-4-methylthiophen-2-yl)-3-(4-fluorobenzyl)imidazolidin-2-one | 29% yield | C(C1=CC=CC=C1)C1N=C(NC1)C1=C(C=C(S1)N1C(N(CC1)CC1=CC=C(C=C1)F)=O)C | C25H25FN4OS
